US07585885B2
5-Chloro-N-methyl-N-propyl-isophthalamic acid
Dissolve commercially available 5-chloroisophthalic acid dimethyl ester (1.0 g, 4.37 mmol) in acetone (10 mL) and add a solution of NaOH (192 mg, 4.81 mmol) in methanol (2 mL). Stir 3 h and concentrate. Partition the residue between diethyl ether and water. Acidify the water layer to about pH=1 and collect the precipitate, 5-chloro-isophthalic acid monomethyl ester (675 mg, 72%). Dissolve 5-chloro-isophthalic acid monomethyl ester (459 mg, 2.13 mmol) in DMF (20 mL), add 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride (513 mg, 2.67 mmol) and 1-hydroxybenzotriazole (360 mg, 2.67 mmol). Stir at room temperature 1 h and add methyl propylamine (584 mg, 8.0 mmol). Stir at room temperature 3 h, dilute with ethyl acetate, wash with 10% aqueous potassium carbonate, 0.1 N citric acid, 1 N lithium chloride and saturated aqueous sodium chloride and concentrate. Dissolve the residue in THF (30 mL) and add 1 N lithium hydroxide (10 mL, 10 mmol). Stir at room temperature 3 h and acidify to about pH=1 by addition of 1 N HCl. Extract with diethyl ether, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 5-chloroisophthalic acid dimethyl ester | 4.37 mmol, 1.0 g | COC(C1=CC(C(=O)OC)=CC(=C1)Cl)=O | C10H9ClO4
reactant | NaOH | 4.81 mmol, 192 mg | [OH-].[Na+]
reactant | 5-chloro-isophthalic acid monomethyl ester | 2.13 mmol, 459 mg | COC(C1=CC(C(=O)O)=CC(=C1)Cl)=O | C9H7ClO4
reactant | 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride | 2.67 mmol, 513 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.67 mmol, 360 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methyl propylamine | 8.0 mmol, 584 mg | CNCCC | C4H11N
reactant | lithium hydroxide | 10 mmol, 1 N, 10 mL | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | methanol | 2 mL | CO | CH4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-N-methyl-N-propyl-isophthalamic acid | ClC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C12H14ClNO3
